US05547967
7.3 g of 3-methoxyphenylthiobenzamide [preparation similar to Example 65 B)] were dissolved in 50 ml acetone and cooled to -20° C. in a nitrogen atmosphere. A solution of 4 ml oxalyl chloride in 40 ml acetone were added slowly dropwise to this solution. Then it was stirred for 1 hour at 20° C. The crystals that settled out were drawn off and the mother liquor concentrated to approximately one-third of the original volume. A further crystal fraction was obtained. In all, 5 g of 2-(3-methoxyphenyl)-1,3-thiazole -4,5-dione were obtained as a yellow solid.

reactant | 3-methoxyphenylthiobenzamide | 7.3 g | COC=1C=C(C=CC1)C1=C(C(=S)N)C=CC=C1 | C14H13NOS
reactant | oxalyl chloride | 4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | acetone | 40 ml | CC(=O)C | C3H6O
product | 2-(3-methoxyphenyl)-1,3-thiazole -4,5-dione | 5 g | COC=1C=C(C=CC1)C=1SC(C(N1)=O)=O | C10H7NO3S
